US07148250B2
To a solution of methyl 3-[2-(acetylthio)ethyl]-1H-indole-2-carboxylate (0.300 g, 1.1 mmol) in DMF (5 mL) was added sodium hydride (60% dispersion in mineral oil, 0.048 g, 1.2 mmol) at −10° C., and the mixture was stirred at −10° C. for 15 minutes. To the mixture was added methyl 3-(bromomethyl)-benzoate (0.273 g, 1.2 mmol) at −15° C., and the reaction mixture was allowed to gradually come to room temperature and stirred overnight. To the mixture were added H2O (20 mL) and EtOAc (20 mL). The organic layer was dried over Na2SO4 and concentrated to give methyl 3-[2-(acetylthio)ethyl]-1-[[3-(methoxycarbonyl)phenyl]-methyl]-1H-indole-2-carboxylate as an oil (0.430 g). This material was used for the next reaction without further purification: 1H NMR (DMSO-d6) 2.32 (s, 3H), 3.10 (t, J=6.52 Hz, 2H), 3.31 (t, J=6.52 Hz, 2H), 3.80 (s, 3H), 3.83 (s, 3H), 5.85 (s, 2H), 7.17–7.23 (m, 2H), 7.34 (t, J=7.7 Hz, 1H), 7.42 (t, J=7.6 Hz, 1H), 7.56 (d, J=8.5 Hz, 1H), 7.66 (s, 1H), 7.80 (d, J=7.8 Hz, 1H), 7.83 (d, J=8.1 Hz, 1H).

reactant | methyl 3-[2-(acetylthio)ethyl]-1H-indole-2-carboxylate | 1.1 mmol, 0.300 g | C(C)(=O)SCCC1=C(NC2=CC=CC=C12)C(=O)OC | C14H15NO3S
reactant | sodium hydride | 1.2 mmol, 0.048 g | [H-].[Na+]
reactant | methyl 3-(bromomethyl)-benzoate | 1.2 mmol, 0.273 g | BrCC=1C=C(C(=O)OC)C=CC1 | C9H9BrO2
reactant | H2O | 20 mL | O | H2O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
product | methyl 3-[2-(acetylthio)ethyl]-1-[[3-(methoxycarbonyl)phenyl]-methyl]-1H-indole-2-carboxylate | 0.430 g | C(C)(=O)SCCC1=C(N(C2=CC=CC=C12)CC1=CC(=CC=C1)C(=O)OC)C(=O)OC | C23H23NO5S
